Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[C:3]=[C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],64.39627676905809
[C:1]([H:8])([H:9])([H:10])[H:12].[N:2](=[C:3]=[N:4][H:11])[C:5](=[O:6])[N:7]([H:13])[H:14]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],82.91643870653074
[C:3](=[N:4][H:12])([H:10])[H:11].[C:5](=[O:6])([H:7])[H:13].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],22.2528189449363
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C:1]1([H:8])=[C:2]2[C:3]1=[C:4]([H:9])[C:5]([H:10])=[C:6]([H:11])[O:7]2,84.65248093809029
[H:11][H:12].[N:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],72.98804354680313
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:14].[C:2](=[O:3])([H:10])[H:11].[C:4](=[C:5]([H:13])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12],76.8609174251063
[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O+:3][C:4](=[C:5]=[N-:6])[H:9])[H:8])([H:7])[H:10],34.998933009077
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13]>>[C+:1]1([H:8])[C:2]([H:9])=[C-:3][C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13].[H:7][H:10],127.050761255742
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[N:6])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:4](/[C:5]#[N:6])[H:12])[H:10])([H:7])([H:8])[H:9].[O:3]([H:11])[H:13],51.3148111990617
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[c:2]1\[c:6]([H:9])[n:7]1)\[H:8].[O:3]=[C:4]=[O:5],48.807910091180894
[O:1]([C@:2]([C:3][H:7])([C:4]([H:8])([H:9])[H:10])[H:6])[H:5]>>[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5],0.30772597768708465
[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8]>>[H:7][H:8].[N:1]#[C:2]/[N:3]=[C:4](\[N:5]=[O:6])[H:9],100.196941608162
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[N:2](=[C:3](/[C:4]([O:5][H:15])([H:13])[H:14])[C:6]#[N:7])\[H:11],85.64920264237459
[C:2](=[C:3]([O:4][C:5](=[O:6])[H:12])[H:11])([H:8])[H:9].[O:1]([H:7])[H:10]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],51.9691414113646
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([O:5]/[C:4](=[C:2](\[O:3][H:10])[H:9])[H:11])([H:6])([H:7])[H:8],88.12368481387051
[N:1]([C:2][C:4]([O+:5]=[C:6]([N:7]([O-:3])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],4.190382512582005
[C-:3]#[N+:4][C:5]([H:10])([H:11])[H:12].[C:1]([O:2][H:9])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],41.2245569280728
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[O:5][C@@:6]12[H:12]>>[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]1[H:11])([C:6](=[O:5])[H:12])([H:7])[H:8],56.5472075124624
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:4]([C:3]([C:2][H:10])([H:11])[H:12])([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],99.469393700389
[C:1]([N:2]([C:3](=[O:4])[C:6]([N:5]([H:11])[H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],114.06862150926068
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[O:3][C:4]([H:12])([H:13])[C:5][C:6]1([H:8])[H:14]>>[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],35.186129062237896
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[N:2]=[C:3]([N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[O:4]1.[H:10][H:11],98.21301038327827
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([C:5](=[O:6])[H:12])[H:11])([H:8])[H:9].[H:7][H:10].[O+:1]#[C-:2],54.7761147440028
[N:1]([O:7][C@:6]1([H:12])[C:2](=[O:3])[C:4]([H:10])([H:11])[O:5]1)([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],36.49476339386091
[C:3](=[O:4])([C:5](=[O:6])[H:12])[H:10].[H:7][H:11].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],43.751695071780496
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C-:1]([N:2]([C+:3]([H:10])[H:11])[H:9])([H:6])[H:7].[C:4](#[N:5])[H:8],49.2306180279652
[C:3](=[C:4]([H:10])[H:11])([H:8])[H:9].[O:1]=[C:2]([C:5]#[N:6])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],74.7083953551101
